US09260436B2
A mixture of 1.46 g of 2-(4-chloro-2-ethylsulfanylphenyl)-7-trifluoromethyl-3H-quinazolin-4-one, 0.39 ml of phosphorus oxychloride, 538 mg of N,N-diisopropylethylamine and 20 ml of toluene was stirred at 90° C. for 1 hour. A saturated aqueous sodium bicarbonate solution was added to the cooled reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain 1.31 g of 4-chloro-2-(4-chloro-2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline (Compound of Present Invention 14).

reactant | 2-(4-chloro-2-ethylsulfanylphenyl)-7-trifluoromethyl-3H-quinazolin-4-one | 1.46 g | ClC1=CC(=C(C=C1)C1=NC2=CC(=CC=C2C(N1)=O)C(F)(F)F)SCC | C17H12ClF3N2OS
reactant | phosphorus oxychloride | 0.39 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-diisopropylethylamine | 538 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-(4-chloro-2-ethylsulfanylphenyl)-7-trifluoromethylquinazoline | 1.31 g | ClC1=NC(=NC2=CC(=CC=C12)C(F)(F)F)C1=C(C=C(C=C1)Cl)SCC | C17H11Cl2F3N2S
